US04824835
N-(4,4-Dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea
1.3 g. (6.3 mMole) 7-amino-4,4-dimethylisoquinoline-1,3-dione was suspended in 30 ml. 2N acetic acid, mixed with 1.0 g. (12.5 mMole) potassium isocyanate and stirred for 6 hours at 80° C. The reaction mixture was cooled and the precipitate was filtered off with suction and washed with water. The residue was dissolved in dilute aqueous sodium hydroxide solution, the solution was neutralised with dilute hydrochloric acid, the residue was filtered off with suction and, for purification, worked up with ethanol and filtered off with suction. Yield: 0.6 g. (38.5% of theory); m.p. 260°-264° C.

reactant | 7-amino-4,4-dimethylisoquinoline-1,3-dione | 6.3 mMole | NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C | C11H12N2O2
reactant | potassium isocyanate | 12.5 mMole | [N-]=C=O.[K+]
solvent | acetic acid | 2N | C(C)(=O)O | C2H4O2
product | N-(4,4-Dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea | CC1(C(NC(C2=CC(=CC=C12)NC(=O)N)=O)=O)C | C12H13N3O3
